US08748418B2
To a solution of 5-chloro-2-iodopyridin-3-ol (15 g, 58.7 mmol) in N,N-dimethylformamide (150 ml) at 0° C. was added cesium carbonate (47.8 g, 147 mmol) and ethyl bromoacetate (14.7 g, 9.81 ml, 88.1 mmol) and the mixture was stirred at 23° C. for 18 h. Poured into brine, extracted thrice with ethyl acetate, dried the combined organic layer over sodium sulfate. Removal of the solvent in vacuum left an oil, which was diluted with tert-butyl methyl ether, washed with water and brine and dried over sodium sulfate. Removal of the solvent in vacuum left a light brown oil, which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the ethyl 2-(5-chloro-2-iodopyridin-3-yloxy)acetate (17.3 g, 50.7 mmol, 86.3% yield) as a light brown solid. MS (ISP): m/z=341.9 [(M+H)+] and 343.9 [(M+2+H)+].

reactant | 5-chloro-2-iodopyridin-3-ol | 58.7 mmol, 15 g | ClC=1C=C(C(=NC1)I)O | C5H3ClINO
reactant | cesium carbonate | 147 mmol, 47.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromoacetate | 88.1 mmol, 9.81 ml, 14.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | ethyl 2-(5-chloro-2-iodopyridin-3-yloxy)acetate | 50.7 mmol, 17.3 g, 86.3% yield | ClC=1C=C(C(=NC1)I)OCC(=O)OCC | C9H9ClINO3
